US08471004B2
B) 4,4-Difluoro-6-azaspiro[2.5]octane hydrochloride
Hydrogen chloride (4 M in dioxane, 3.29 ml, 13.2 mmol) was added to a solution of tert-butyl 4,4-difluoro-6-azaspiro[2.5]octane-6-carboxylate (592 mg, 2.39 mmol) in ethanol (0.5 ml). The solvents were evaporated to give a white solid. The solid residue was washed with tert-butylmethylether to afford the title compound (404 mg, 92%).White solid, MS: 148.2 (M+H)+.

reactant | Hydrogen chloride | 13.2 mmol, 4 M, 3.29 ml | Cl | ClH
reactant | tert-butyl 4,4-difluoro-6-azaspiro[2.5]octane-6-carboxylate | 2.39 mmol, 592 mg | FC1(C2(CC2)CCN(C1)C(=O)OC(C)(C)C)F | C12H19F2NO2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 4,4-Difluoro-6-azaspiro[2.5]octane hydrochloride | 404 mg, 92% | Cl.FC1(C2(CC2)CCNC1)F | InChI=1S/C7H11F2N.ClH/c8-7(9)5-10-4-3-6(7)1-2-6;/h10H,1-5H2;1H
